US05576321
Preparation of 1-(4-indolyloxy)-3-[4-(2-naphthyl)piperazin-1-yl]propane oxalate
1-(4-indolyloxy)-3-chloropropane (0.159 g, 0.75 mmol), 1-(2-naphthyl)piperazine (0.161 g, 0.75 mmol) and sodium carbonate (0.201 g, 1.89 mmol) were mixed together in 7 mL dimethylformamide and heated at 100° C. for 18 h. Evaporation of dimethylformamide, dilution with water and extractions with ethyl acetate provided 0.303 g. of oil. Crystallization as the oxalate salt from methanol provided 0.083 g of colorless crystals. Mp 209° C. Mass spectrum, m+ =385. Anal (C27H29N3O5) theory C, 68.20; H, 6.15; N, 8.84; found C, 68.47; H, 6.33; N, 8.60.

reactant | 1-(4-indolyloxy)-3-chloropropane | 0.75 mmol, 0.159 g | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 1-(2-naphthyl)piperazine | 0.75 mmol, 0.161 g | C1=C(C=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | sodium carbonate | 1.89 mmol, 0.201 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 1-(4-indolyloxy)-3-[4-(2-naphthyl)piperazin-1-yl]propane oxalate | 0.083 g | C(C(=O)O)(=O)O.N1C=CC2=C(C=CC=C12)OCCCN1CCN(CC1)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C25H27N3O.C2H2O4/c1-2-6-21-19-22(10-9-20(21)5-1)28-16-14-27(15-17-28)13-4-18-29-25-8-3-7-24-23(25)11-12-26-24;3-1(4)2(5)6/h1-3,5-12,19,26H,4,13-18H2;(H,3,4)(H,5,6)
